datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].[OH2:10]>>C1=CC2=C(C=C1)[C:32](=[O:33])[C:21]([CH:20]([OH2+:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[C:22]2[O-:23] 10=20;20,21=21,22;22,23=23"
"C/[N:10]=C/C1=CC=CC=C1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C/[N+:10](=C/C1=CC=CC=C1)[S:20]C(F)(F)F.C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CCC[NH:10]2)C=C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>Cl[C:20]1([NH+:10]2CCC[C@H]2C(C2=CC=CC=C2)C2=CC=CC=C2)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[N:74]1[C:61](=[O:62])[N:10]=[C:11]([O-:12])[CH:72]=[CH:73]1>>C[N:74]1[C:61](=[O:62])[N:10]([CH2:20][CH-:21][S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[C:11](=[O:12])[CH:72]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
CC[O:92][C:61]([C-:10](F)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]2)=[CH:32]1>>CC[O:92][C:61]([C:10](F)([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][C:57](F)=[CH:58]1)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20
"C[C+:20](C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Sn:63](C)(C)[CH2:62][CH:11]([H:10])[C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1>>C[C:20](C)([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Sn:63](C)(C)[CH2:62][CH+:11][C:71]1=[CH:72][CH:73]=[C:74](C2=CC=CC=C2)[CH:83]=[CH:82]1 10,11=10,20"
"CC1=C[C:61]2=[C:62](C=C1)[NH:12][C:11](C)=[N:10]2.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CC1=C[C:61]2=[C:62](C=C1)[NH+:12]=[C:11](C)[N:10]2[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62].COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>CC[O:72][C:61]([C:10]1([CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=C(OC)C=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=C(OC)C=C3)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1[CH:10]=[CH:11][CH:62]=[CH:63]1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1[CH:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH+:11][CH:62]=[CH:63]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CCCC[C:11](=[CH2:10])CCCC1.C[O+:21]=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1>>C[O:21][CH:20]([CH2:10][C+:11]1CCCCCCCCC1)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21"
"C1C[CH:63]=[CH:62][CH:11]=[CH:10]1.[O-][N+]1=[C:33]2[C:32](=NO1)[C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]1=[N+:42]([O-])O[N:35]=[C:34]21>>[O-][N+]1=[C:33]2[C:32](=NO1)[C:21](=[N+:22]([O-])[O-:23])[CH:20]([CH:10]1CC[CH:63]=[CH:62][CH+:11]1)[C:41]1=[N+:42]([O-])O[N:35]=[C:34]21 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)(C)C)=[O:23].[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>CC(C)(C)[O:33][C:22](=[N:21][N:20]([H:10])[C:41](=[O:42])[O:43]C(C)(C)C)[O-:23].[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20;20,21=21,22;22,23=23"
"CC1=CC(C)=C(N2C(C3=CC=CC=C3)=N[N+](C3=C(C)C=C(C)C=C3C)=C2/[C:61]([O-:10])=[C:62](\C)C2=CC=CC=C2)C(C)=C1.COC1=CC=C([C:22]2=[O+:23][C:32]3=[C:31](C=CC=C3)[CH:20]=[CH:21]2)C=C1>>COC1=CC=C([C:22]2=[CH:21][CH:20]([O:10]/[C:61](C3=[N+](C4=C(C)C=C(C)C=C4C)N=C(C4=CC=CC=C4)N3C3=C(C)C=C(C)C=C3C)=[C:62](/C)C3=CC=CC=C3)[C:31]3=[C:32](C=CC=C3)[O:23]2)C=C1 10=20;20,21=21,22;22,23=23"
"C1C[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)CCO1.C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C:11](C)=[CH2:10]>>C[Si](C)(C)[Si:63]([Si](C)(C)C)([Si](C)(C)C)[CH2:62][C+:11](C)[CH2:10][CH:20]([CH:21]=[CH:22][N:23]1CCOCC1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH2:20][C:31]23C4([Si](C)(C)C)[Co-3:32]2(C#[O+])(C#[O+])(C#[O+])[Co-3:42]43(C#[O+])(C#[O+])C#[O+])C1(C)C 10,11=10,20;12=11,12"
"C1=CC=C([P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)[CH:10]=[CH:11][O-:12])C=C1.Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl>>Cl[C:20]1([CH:10]([CH:11]=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21](Cl)=[C:22]([O-:23])[C:32](=[O:33])[C:31](Cl)=[C:30]1Cl 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
